US09340538B2
Step E: 4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(1-methyl-1H-1,2,4-triazol-3-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-2-carboxylic acid
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(1-methyl-1H-1,2,4-triazol-3-yl)-1,4-dihydropyrimidine-5-carboxylate (1 g, 2 mmol) was reacted with morpholine-2-carboxylic acid hydrochloride (0.34 g, 2 mmol) according to the procedure as described in Example 1, Step C to give the title compound as a yellow solid (0.42 g, 38%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(1-methyl-1H-1,2,4-triazol-3-yl)-1,4-dihydropyrimidine-5-carboxylate | 2 mmol, 1 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C1=NN(C=N1)C | C17H16Br2FN5O2
reactant | morpholine-2-carboxylic acid hydrochloride | 2 mmol, 0.34 g | Cl.N1CC(OCC1)C(=O)O
product | 4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(1-methyl-1H-1,2,4-triazol-3-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-2-carboxylic acid | 0.42 g, 38% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C1=NN(C=N1)C)CN1CC(OCC1)C(=O)O)C(=O)OCC | C22H24BrFN6O5
